US08003800B2
To a solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-isobutyl-3-propyl-thiophen-2-yl)-propan-1-one (108 mg, 0.301 mmol) in isopropanol (5 mL), 3 N aq. NaOH (3 mL) followed by (S)-3-chloro-1,2-propanediol (167 mg, 1.51 mmol) is added. The mixture is stirred at 70° C. for 4 h. After 4, 5, 6, 7 and 8 h an additional portion of (S)-3-chloro-1,2-propanediol (5×97 mg, 0.878 mmol) is added. After the last addition, stirring is continued at 60° C. for 16 h. The mixture is diluted with water and extracted with diethyl ether. The organic extract is dried over MgSO4, filtered and evaporated. The crude product is purified by prep. HPLC to give 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-propyl-thiophen-2-yl)-propan-1-one (18 mg) as an almost colourless resin; LC-MS: tR=1.09 min, [M+1]=433.40; 1H NMR (CDCl3): δ 7.08 (s, 1H), 6.87 (s, 2H), 4.11-4.03 (m, 1H), 3.90-3.70 (m, 4H), 3.14-3.06 (m, 2H), 2.94-2.82 (m, 4H), 2.60 (s br, 2H), 2.40 (d, J=7.0 Hz, 2H), 2.24 8s, 6H), 1.90-1.78 (m, 1H), 1.56-1.46 (m, 2H), 1.00 8t, J=7.0 Hz, 3H), 0.93 (d, J=6.4 Hz, 6H).

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-isobutyl-3-propyl-thiophen-2-yl)-propan-1-one | 0.301 mmol, 108 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1CCC)CC(C)C)C | C22H30O2S
reactant | (S)-3-chloro-1,2-propanediol | 1.51 mmol, 167 mg | ClC[C@H](CO)O | C3H7ClO2
reactant | (S)-3-chloro-1,2-propanediol | 0.878 mmol, 97 mg | ClC[C@H](CO)O | C3H7ClO2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 3 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-propyl-thiophen-2-yl)-propan-1-one | 18 mg | O[C@H](COC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1CCC)CC(C)C)C)CO | C25H36O4S
